US05455273
trans-4-[4-(3-Acetoxypropyl)methylaminomethylphenyl]-N-(4-chlorobenzoyl)-N-methyl-cyclohexylamine
trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(3-isobutyryloxypropyl)methylaminomethylphenyl]-cyclohexylamine from trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine and isobutyrylchloride. Melting point: 79°-81° C.

reactant | trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(3-isobutyryloxypropyl)methylaminomethylphenyl]-cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=C(C=C(C=C2)CCCOC(C(C)C)=O)CNC)C=C1 | C29H39ClN2O3
reactant | trans-N-(4-chlorobenzoyl)-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine | ClC1=CC=C(C(=O)N(C)[C@@H]2CC[C@H](CC2)C2=C(C=C(C=C2)CCCO)CNC)C=C1 | C25H33ClN2O2
reactant | isobutyrylchloride | C(C(C)C)(=O)Cl | C4H7ClO
product | trans-4-[4-(3-Acetoxypropyl)methylaminomethylphenyl]-N-(4-chlorobenzoyl)-N-methyl-cyclohexylamine | C(C)(=O)OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(C)C(C1=CC=C(C=C1)Cl)=O)CNC | C27H35ClN2O3
